US04319052
Into a reactor similar to that described in Example 1 hereinabove there are charged 220 g (1 g-mol) of 2,6-ditert.-butyl-4-methylphenol, 2.2 g of concentrated sulfuric acid and at the temperature of 120° C. 76 g (1.0 g-mol) of methylal are fed into the reactor for 1 hour. The reaction mass is treated following the procedure described in the foregoing Example 1 to give 112.9 g of 2,2'-methylene-bis-(4-methyl-6-tert.butylphenol) which constitutes 99.1% of theory, as calculated for the reacted 2,6-ditert.butyl-4-methylphenol (conversion of the latter is 67.0%). The unreacted methylal and 2,6-ditert.butyl-4-methylphenol are recycled back into the process.

reactant | 2,6-ditert.-butyl-4-methylphenol | 220 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | methylal | 76 g | COCOC | C3H8O2
catalyst | sulfuric acid | 2.2 g | S(O)(O)(=O)=O | H2O4S
product | 2,2'-methylene-bis-(4-methyl-6-tert.butylphenol) | 112.9 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
